US08058276B2
Step 1.1*: 6-Triisopropylsilanyloxy-benzo[d]isoxazole-3-carboxylic acid ethyl ester
To a solution of 0.80 g (3.86 mMol) 6-hydroxy-benzo[d]isoxazole-3-carboxylic acid ethyl ester [preparation see: J. Am. Chem. Soc. 97 (1974), 7305] in 8 ml DMF, 1.16 g (17 mMol) imidazol and 2.15 ml chlortriisopropylsilane (95%; 9.7 mMol) are added. After 50 min, the mixture is poured into ice-water and extracted twice with EtOAc. The organic phases are washed with 10% citric acid solution, 2× water and brine, dried (Na2SO4) and concentrated. Column chromatography (SiO2; hexane/EtOAc 29:1) gives the title compound: MS: [M+1]+=364; TLC(hexane/EtOAc 9:1): Rf=0.5.

reactant | 6-hydroxy-benzo[d]isoxazole-3-carboxylic acid ethyl ester | 3.86 mMol, 0.80 g | C(C)OC(=O)C1=NOC2=C1C=CC(=C2)O | C10H9NO4
reactant | imidazol | 17 mMol, 1.16 g | N1C=NC=C1 | C3H4N2
reactant | chlortriisopropylsilane | 9.7 mMol, 2.15 ml | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 6-Triisopropylsilanyloxy-benzo[d]isoxazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NOC2=C1C=CC(=C2)O[Si](C(C)C)(C(C)C)C(C)C | C19H29NO4Si
